US06949551B2
Step 3: 3-chloro-5-hydroxy-1-iodo-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]-benzene
3.12 g of 5-benzoyloxy-3-chloro-1-iodo-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzene were dissolved in 16 ml of tetrahydrofuran and 7.8 ml of methanol, and 3.9 ml of 2N aqueous sodium hydroxide solution were added. After 30 minutes of stirring at room temperature. 3.9 ml of 2N hydrochloric acid were added, and the reaction mixture was concentrated under reduced pressure. Saturated sodium chloride solution and ethyl acetate were added to the residue, and the mixture was shaken. The ethyl acetate phase was isolated, dried and concentrated. The resulting crude product was purified chromatographically. Yield: 2.03 g (80%)

reactant | 5-benzoyloxy-3-chloro-1-iodo-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]benzene | 3.12 g | C(C1=CC=CC=C1)(=O)OC=1C=C(C(=C(C1)I)OCCCOC1=NC=C(C=C1)C(F)(F)F)Cl | C22H16ClF3INO4
reactant | sodium hydroxide | 2N, 3.9 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 3.9 ml | Cl | ClH
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | methanol | 7.8 ml | CO | CH4O
product | 3-chloro-5-hydroxy-1-iodo-2-[3-(5-trifluoromethylpyrid-2-yloxy)propyloxy]-benzene | ClC=1C(=C(C=C(C1)O)I)OCCCOC1=NC=C(C=C1)C(F)(F)F | C15H12ClF3INO3
